US05750764
A mixture of 2-methoxynaphthalene (20,0 g, 126 mmol) and methyl pyruvate (19,3 g, 190 mmol) in dichloromethane (100 mL) was added to a suspension of aluminium chloride (25,3 g, 190 mmol) in dichloromethane (100 mL) at 6° C. over 140 minutes. The solution was stirred for a further 15 minutes at this temperature and added to ice/water. Methyl 2-hydroxy-2-(6-methoxynaphth-2-yl)propionate (52% yield) and 2-methoxynaphthalene (34% recovery) were the primary components of the reaction mixture.

reactant | 2-methoxynaphthalene | 126 mmol, 20,0 g | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | methyl pyruvate | 190 mmol, 19,3 g | C(C(=O)C)(=O)OC | C4H6O3
reactant | aluminium chloride | 190 mmol, 25,3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Methyl 2-hydroxy-2-(6-methoxynaphth-2-yl)propionate | 52% yield | OC(C(=O)OC)(C)C1=CC2=CC=C(C=C2C=C1)OC | C15H16O4
